### PR TITLE
Add the generalized Bayes estimator

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Separate lemmas about `Bool` to the file `BoolMeasure.lean`.
- Separate part of the proof of `bayesianRisk_ge_lintegral_iInf_bayesInv` in a new lemma `bayesianRisk_eq_integral_integral_integral`.
- Add the Generalized Bayes estimator, in particular the structure `IsGenBayesEstimator` and the class `HasGenBayesEstimator` along with some API lemmas.
- Relax the hypothesis `IsMarkovKernel` to `IsFiniteKernel` in some lemmas.
- Add lemmas about `twoHypKernel`: `kernel_bool_eq_twoHypKernel`, `twoHypKernelInv_apply_false`, `twoHypKernelInv_apply_true`.
- Add `measure_prod_ext`.
- Finish proof of `bayesInv_twoHypKernel`.
- Add `bayesRiskPrior_eq_of_hasGenBayesEstimator_binary`.
- Add instances of finite and Markov kernel for `(simpleBinaryHypTest μ ν).P`.
- Add the Generalized Bayes estimator for the binary case: `binaryGenBayesEstimator` and `binaryGenBayesEstimator_isGenBayesEstimator`.
- Separate part of the proof of `bayesBinaryRisk_eq_iInf_measurableSet` in a new lemma `bayesianRisk_binary_of_deterministic_indicator` and finish the proof.
- Prove `bayesBinaryRisk_eq_integral_min`.
- Cleanup.

### CODE REVIEW

File: TestingLowerBounds/Testing/Binary.lean [hunk 1]
```diff
@@ -166,25 +185,89 @@ instance (π : Measure Bool) [IsFiniteMeasure π] : IsMarkovKernel (twoHypKernel
...
+  · exact fun t ⟨A, hA, B, hB, ht⟩ ↦ ht ▸ h A hA B hB
+  · intro t ht h_eq
+    rw [measure_compl ht (measure_ne_top μ t), measure_compl ht (h_eq ▸ measure_ne_top μ t), h_eq,
+      ← Set.univ_prod_univ, ← h Set.univ MeasurableSet.univ Set.univ MeasurableSet.univ]
+  · intro A h_disj h_meas h_eq
+    simp_rw [measure_iUnion h_disj h_meas, h_eq]
+
+--put these 2 lemmas in a separate file, maybe PR them to mathlib
+lemma _root_.Prod.swap_image {α β : Type*} (A : Set α) (B : Set β) :
+    Prod.swap '' (A ×ˢ B) = B ×ˢ A := by ext; simp
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Binary.lean]: This is [Set.image_swap_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Prod.html#Set.image_swap_prod)

File: TestingLowerBounds/Testing/Binary.lean [hunk 2]
```diff
@@ -166,25 +185,89 @@ instance (π : Measure Bool) [IsFiniteMeasure π] : IsMarkovKernel (twoHypKernel
...
+
+lemma _root_.Prod.swap_preimage {α β : Type*} (A : Set α) (B : Set β) :
+    Prod.swap ⁻¹' (A ×ˢ B) = B ×ˢ A := by ext; simp
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Binary.lean]: This is [Set.preimage_swap_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Prod.html#Set.preimage_swap_prod)

File: TestingLowerBounds/Testing/Risk.lean [hunk 3]
```diff
@@ -208,22 +207,79 @@ lemma bayesianRisk_eq_lintegral_bayesInv_prod [StandardBorelSpace Θ] [Nonempty
...
+  gcongr with x
   calc
     _ ≥ ∫⁻ _, ⨅ z, ∫⁻ (θ : Θ), E.ℓ (E.y θ, z) ∂(E.P†π) x ∂κ x :=
       lintegral_mono fun z ↦ iInf_le' _ z
     _ = ⨅ z, ∫⁻ (θ : Θ), E.ℓ (E.y θ, z) ∂(E.P†π) x := by
       rw [lintegral_const, measure_univ, mul_one]
 
+/-! ### Generalized Bayes estimator -/
+
+--NB: I had to chenge the definition, now the property only has to hold a.e., is it ok? I need that so that I can prove that the estimator for the binary case is a generalized bayes estimator and we only have properties for E.P†π a.e.
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Risk.lean]:
```suggestion
```
It's ok.

File: TestingLowerBounds/Testing/Risk.lean [hunk 4]
```diff
@@ -208,22 +207,79 @@ lemma bayesianRisk_eq_lintegral_bayesInv_prod [StandardBorelSpace Θ] [Nonempty
...
+  have := E.y_meas
+  rw [bayesianRisk_eq_integral_integral_integral]
+  refine lintegral_congr_ae ?_
+  filter_upwards [hf.property] with x hx
+  rwa [kernel.deterministic_apply,
+    lintegral_dirac' _ (Measurable.lintegral_prod_left (by fun_prop))]
+
+lemma isBayesEstimator_of_isGenBayesEstimator [StandardBorelSpace Θ] [Nonempty Θ]
+    (E : estimationProblem Θ 𝒳 𝒴 𝒵) [IsFiniteKernel E.P] (π : Measure Θ) [IsFiniteMeasure π]
+    {f : 𝒳 → 𝒵} (hf : IsGenBayesEstimator E f π) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Risk.lean]:
```suggestion
lemma isBayesEstimator_of_isGenBayesEstimator [StandardBorelSpace Θ] [Nonempty Θ]
    {E : estimationProblem Θ 𝒳 𝒴 𝒵} [IsFiniteKernel E.P] {π : Measure Θ} [IsFiniteMeasure π]
    {f : 𝒳 → 𝒵} (hf : IsGenBayesEstimator E f π) :
```
Those arguments cen be inferred from hf

File: TestingLowerBounds/Testing/Binary.lean [hunk 5]
```diff
@@ -166,30 +188,89 @@ instance (π : Measure Bool) [IsFiniteMeasure π] : IsMarkovKernel (twoHypKernel
     simp [h]
   · infer_instance
 
+--the finiteness hypothesis for μ should not be needed, but otherwise I dont know how to handle the 3rd case, where I have the complement
+-- we still need some hp, the right one is probably SigmaFinite. For SFinite ones there is a counterexample, see the comment above `Measure.prod_eq`.
+--TODO: generalize this lemma to SigmaFinite measures, there are 2 ways to do it, one is to try and generalize this proof (for this it may be useful to try and apply the lemma used in the proof of `Measure.prod_eq`), the other is to use this as an auxiliary lemma and prove the result for SigmaFinite measures using this one (we can restrict the mesaure to the set where it is finite and then use this lemma). I'm not sure which way is better.
+lemma measure_prod_ext {μ ν : Measure (𝒳 × 𝒴)} [IsFiniteMeasure μ] (h : ∀ (A : Set 𝒳),
+    ∀ (_ : MeasurableSet A), ∀ (B : Set 𝒴), ∀ (_ : MeasurableSet B), (μ (A ×ˢ B)) = (ν (A ×ˢ B))) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/Testing/Binary.lean]:
```suggestion
lemma measure_prod_ext {μ ν : Measure (𝒳 × 𝒴)} [IsFiniteMeasure μ]
    (h : ∀ (A : Set 𝒳) (_ : MeasurableSet A) (B : Set 𝒴) (_ : MeasurableSet B), μ (A ×ˢ B) = ν (A ×ˢ B)) :
```

**Review by RemyDegenne — APPROVED** [review]
